US03993656
Preparation of 2-amino-5-acetamido-4,6-dimethylnicotinaldehyde
Ethylene glycol (80 ml.) is heated in an oil-bath at 170° C. until the internal temperature reaches 160° C. N1 -(2-amino-5-acetamido-4,6-dimethylnicotinoyl)-N2 -benzenesulfonyl hydrazine (8.0 g., 21.2 mmole) is added and the mixture stirred until the internal temperature returns to 160° C. Anhydrous sodium carbonate (5.6 g.) is added in one portion, heating is continued for 30 seconds and the reaction mixture cooled rapidly and poured into water (320 ml.). The product is isolated by continuous extraction with methylene chloride for about 24 hours to give 2.90 g. (66%) of crude product. Following purification by crystallization from ethanol the pure product melts at 270°-275° C. (dec.) with rapid heating.

reactant | Ethylene glycol | 80 ml | C(CO)O | C2H6O2
reactant | N1 -(2-amino-5-acetamido-4,6-dimethylnicotinoyl)-N2 -benzenesulfonyl hydrazine | 21.2 mmole, 8.0 g | NC1=C(C(=O)NNS(=O)(=O)C2=CC=CC=C2)C(=C(C(=N1)C)NC(C)=O)C | C16H19N5O4S
reactant | sodium carbonate | 5.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 320 ml | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-amino-5-acetamido-4,6-dimethylnicotinaldehyde | NC1=C(C=O)C(=C(C(=N1)C)NC(C)=O)C | C10H13N3O2
